US04590082
PREPARATION OF CYCLOOCTYL MERCAPTOACETATE
Into a 100 ml reaction flask equipped with stirrer, thermometer, reflux condenser and heating mantle are placed 32 grams of cyclooctanol; 9.2 grams of mercaptoacetic acid and 0.5 grams paratoluene sulfonic acid.

reactant | cyclooctanol | 32 grams | C1(CCCCCCC1)O | C8H16O
reactant | mercaptoacetic acid | 9.2 grams | SCC(=O)O | C2H4O2S
reactant | paratoluene sulfonic acid | 0.5 grams | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | CYCLOOCTYL MERCAPTOACETATE | SCC(=O)OC1CCCCCCC1 | C10H18O2S
